US07157447B2
4-Fluoro-2-(5-hydroxymethyl-[1,2,4]triazol-1-yl)-benzonitrile.
This compound was prepared from (2-(2-bromo-5-fluorophenyl)-2H-1,2,4-triazol-3-yl)methanol and CuCN in DMF at 125–130° C. for 5 h by the method used for the preparation of 4-fluoro-2-pyrazol-1-yl-benzonitrile. Yield: 48% (beige solid) HPLC rt=1.11 min. LC/MS m/z 219 (M+H). 1H NMR (CDCl3, 500 MHz) δ ppm 2.39 (1H, br.s, OH), 4.79 (2H, s, 9-OCH2), 7.32–7.40 (1H, m, 5-CH), 7.50 (1H, d, J=8.2, 2.1 Hz, 3-CH), 7.87 (1H, dd, J=8.5, 5.5 Hz, 6-CH), 8.14 (1H, s, 9-CH). HRMS (ESI) calcd for C10H8FN4O (M+H) 219.0682. found 219.0689 (δ +3.1 ppm).

reactant | (2-(2-bromo-5-fluorophenyl)-2H-1,2,4-triazol-3-yl)methanol | BrC1=C(C=C(C=C1)F)N1N=CN=C1CO | C9H7BrFN3O
reactant | CuCN | C(#N)[Cu]
reactant | 4-fluoro-2-pyrazol-1-yl-benzonitrile | FC1=CC(=C(C#N)C=C1)N1N=CC=C1 | C10H6FN3
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Fluoro-2-(5-hydroxymethyl-[1,2,4]triazol-1-yl)-benzonitrile | Yield: 48% | FC1=CC(=C(C#N)C=C1)N1N=CN=C1CO | C10H7FN4O
